US07547691B2
2-{2-[3-(4-Methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-7-ol
[4-(7-Methoxy-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine (150 mg, 0.380 mmol) is dissolved in dry dichloromethane (10 mL) and the solution is cooled to −70° C. To the solution, boron bromide (BBr3) (1.0 M in dichloromethane, 2.64 mL) is added dropwise. The reaction is stirred at −70° C. for 15 minutes, then the cool bath is removed and the reaction is allowed to warm to ambient temperature overnight. After 16 hours, the reaction is again cooled to 70° C. Methanol (5 mL) is added to the reaction mixture then the mixture is allowed to warm to ambient temperature where it is concentrated in vacuo to an orange solid. The crude product is dissolved in THF (minimal) and purified by silica gel chromatography, eluting with MeOH/dichloromethane 0-40%, to yield the title compound as a solid (92.0 mg, 63% yield). ES+(m/z) 384 [M+H].

reactant | [4-(7-Methoxy-benzo[b]thiophen-2-yl)-pyrimidin-2-yl]-[3-(4-methyl-piperazin-1-yl)-propyl]-amine | 0.380 mmol, 150 mg | COC1=CC=CC2=C1SC(=C2)C2=NC(=NC=C2)NCCCN2CCN(CC2)C | C21H27N5OS
reactant | boron bromide | 1.0 M, 2.64 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-{2-[3-(4-Methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophen-7-ol | 92.0 mg, 63% yield | CN1CCN(CC1)CCCNC1=NC=CC(=N1)C1=CC2=C(S1)C(=CC=C2)O | C20H25N5OS
